US07612055B2
[(3S,6S,14R,16S)-16-((1S,3R)-3-Butylcarbamoyl-1-hydroxy-butyl)-3,14-dimethyl-2,5-dioxo-1,4-diaza-cyclohexadec-6-yl]-carbamic acid tert-butyl ester
A solution of 199 mg (0.35 mmol) [(3S,6S,14R,16S)-16-((1S,3R)-3-butylcarbamoyl-1-hydroxy-butyl)-3,14-dimethyl-2,5-dioxo-1,4-diaza-cyclohexadec-10-en-6-yl]-carbamic acid tert-butyl ester in 10 ml THF and 10 ml EtOH is stirred in the presence of 20 mg 10% Pd-C under an hydrogen atmosphere for 1 h. The mixture is filtered over a pad of celite and the solvent evaporated. This yields the title compound as a white powder.

reactant | [(3S,6S,14R,16S)-16-((1S,3R)-3-butylcarbamoyl-1-hydroxy-butyl)-3,14-dimethyl-2,5-dioxo-1,4-diaza-cyclohexadec-10-en-6-yl]-carbamic acid tert-butyl ester | 0.35 mmol, 199 mg | C(C)(C)(C)OC(N[C@@H]1C(N[C@H](C(N[C@@H](C[C@@H](CCC=CCCC1)C)[C@H](C[C@@H](C)C(NCCCC)=O)O)=O)C)=O)=O | C30H54N4O6
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd-C | 20 mg | [Pd] | Pd
product | [(3S,6S,14R,16S)-16-((1S,3R)-3-Butylcarbamoyl-1-hydroxy-butyl)-3,14-dimethyl-2,5-dioxo-1,4-diaza-cyclohexadec-6-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N[C@H](C(N[C@@H](C[C@@H](CCCCCCC1)C)[C@H](C[C@@H](C)C(NCCCC)=O)O)=O)C)=O)=O | C30H56N4O6
